US06927228B2
(c) N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]benzamide
In a manner similar to that of Example 1(f), by reacting 1 g (3.2 mmol) of N-(4′-formylbiphenyl-3-ylmethyl)benzamide with 370 mg (3.2 mmol) of 2,4-thiazolidine dione, 1.2 g (93%) of expected product are obtained.

reactant | N-(4′-formylbiphenyl-3-ylmethyl)benzamide | 3.2 mmol, 1 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(C1=CC=CC=C1)=O | C21H17NO2
reactant | 2,4-thiazolidine dione | 3.2 mmol, 370 mg | S1C(NC(C1)=O)=O | C3H3NO2S
product | N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]benzamide | 1.2 g, 93% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(C1=CC=CC=C1)=O | C24H18N2O3S
